US06548710B2
Preparation of 2,2′,4′-trimethylpropiophenone:
Aluminium chloride (28.0 g, 0.21 mole) was suspended in 200 ml of anhydrous dichloromethane and cooled to 0° C. A solution of m-xylene (21.2 g, 0.2 mole) and isobutyryl chloride (21.3 g, 0.20 mole) in 50 ml of anhydrous dichloromethane was slowly added to this suspension. After the addition was completed, the reaction mixture was stirred at 0° C. for 1 h.

reactant | Aluminium chloride | 0.21 mole, 28.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | m-xylene | 0.2 mole, 21.2 g | C1(=CC(=CC=C1)C)C | C8H10
reactant | isobutyryl chloride | 0.20 mole, 21.3 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,2′,4′-trimethylpropiophenone | CC(C(=O)C1=C(C=C(C=C1)C)C)C | C12H16O
